US05278161
2.83 g (8.77 mmol) of tert.-butyl [(1S,2R)-1-benzyl-2-(cyclopropylcarbonyl)-2-hydroxyethyl]carbamate are dissolved in methylene chloride (130 ml), acetic acid (3 ml) is added thereto and the mixture is then treated portionwise at 0°-10° with 332 mg (8.78 mmol) of sodium borohydride. The reaction solution is stirred at 5° for a further 2 hours and then partitioned between 2N sodium bicarbonate solution and methylene chloride. After the usual working-up of the organic phase the residue is crystallized from ether/hexane, whereby there are obtained 2.1 g (74%) of tert-butyl [(1S,2R,3S)-1-(cyclohexylmethyl)-3-cyclopropyl-2,3-dihydroxypropyl]carbamate, melting point 83°-85°.

reactant | tert.-butyl [(1S,2R)-1-benzyl-2-(cyclopropylcarbonyl)-2-hydroxyethyl]carbamate | 8.77 mmol, 2.83 g | C(C1=CC=CC=C1)[C@@H]([C@@H](O)C(=O)C1CC1)NC(OC(C)(C)C)=O | C18H25NO4
reactant | acetic acid | 3 ml | C(C)(=O)O | C2H4O2
reactant | sodium borohydride | 8.78 mmol, 332 mg | [BH4-].[Na+]
solvent | methylene chloride | 130 ml | C(Cl)Cl | CH2Cl2
product | tert-butyl [(1S,2R,3S)-1-(cyclohexylmethyl)-3-cyclopropyl-2,3-dihydroxypropyl]carbamate | 2.1 g, 74% | C1(CCCCC1)C[C@@H]([C@H]([C@@H](O)C1CC1)O)NC(OC(C)(C)C)=O | C18H33NO4
